US04341775
2-[2-(2,2,2-Trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetic acid (syn isomer, 1.5 g.), dry N, N-dimethylformamide (0.4 g.), phosphoryl chloride (0.8 g.), 7-amino-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (2.0 g.), sodium bicarbonate (1.4 g.), water (12.0 ml.), acetone (12.0 g.), and dry ethyl acetate (0.4 g.) were treated in a similar manner to that of Example 11-(1) to give 7-[2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetamido]-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 2.60 g.).

reactant | 2-[2-(2,2,2-Trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetic acid | 1.5 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC1CCCC1)(F)F | C12H12F3N3O4S
reactant | phosphoryl chloride | 0.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 2.0 g | NC1[C@@H]2N(C(=C(CS2)C(CCCNC(=O)OC(C)(C)C)SC2=NN=NN2)C(=O)O)C1=O | C17H25N7O5S2
reactant | sodium bicarbonate | 1.4 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 0.4 g | C(C)(=O)OCC | C4H8O2
solvent | acetone | 12.0 g | CC(=O)C | C3H6O
solvent | water | 12.0 ml | O | H2O
solvent | N, N-dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
product | 7-[2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetamido]-3-[1-(3-tert-butoxycarbonylaminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 2.60 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCCNC(=O)OC(C)(C)C)SC2=NN=NN2)C(=O)O)C1=O)=NOC1CCCC1)(F)F | C29H35F3N10O8S3
